Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Progressive neurologic weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o. F with recent diagnosis of recently diagnosed (dx 
___ Stage IIIB/IV R. pancoast adenocarcinoma(no LN biopsy to 
determine whether stage IV but has enlarged LN on imaging), c/b 
invasion of brachial plexus and C7-T2 + T4 lesion who is being 
admitted from clinic on ___ for urgent chemotherapy and 
radiation iso concern for progressive neurologic symptoms. 

Ms. ___ reports a ___ history of mild, shooting, tingling 
R. shoulder pain that radiated down the arms, but attributed 
this to a known R. rotator cuff injury. In ___, she noticed 
b/l swelling in both of her eyes, which she attributed to a URI; 
however, the R. eye remained "droopy." She put off seeing a 
doctor, but began experiencing similar symptoms in her L. upper 
extremity and scheduled an apt with a new PCP ___ ___. Before 
she could do so, (___) she began experiencing severe 
bilateral, shooting upper extremity pain that also caused 
numbing and tingling of the palms and fingers. She subsequently 
presented to ___ ED for these symptoms and was admitted from 
___. During this hospitalization, she was diagnosed with R. 
apical pancoast adenocarcinoma. At discharge, she was supposed 
to have EBUS, TBNA to identify mediastinal lymph node 
involvement.

She reports that in the past week, she began experiencing 
worsening of the shooting bilateral arm pain, numbness and 
tingling in both hands. She specifies that the shooting, burning 
pain starts at her mid-upper arms and radiates all the way down 
to her fingertips; the pain is worse on the R>L. The pain is 
constant throughout the day and can reach ___ at times. At 
the beginning of the week, she was able to brush her teeth with 
her R. hand, but was not able to grip her toothbrush this 
morning with her R. hand. She was seen by Dr. ___ Dr. 
___ in clinic on ___ and was subsequently admitted for urgent 
chemotherapy and radiation in the setting of progressive 
neurologic symptoms. 

She denies headache, nausea, vomiting, diarrhea, constipation, 
CP, sob, blurry vision. She denies any change in sweating, and 
reports she does not sweat too much to begin with. Of note, she 
also reports ~20lb unintentional weight loss in the past 3 
months. 

*Of note, she has avoided unfortunate experiences with the 
medical system and avoided medical providers for the past ___ 
years as a result. Her father was started on chemo trial for 
colon cancer and died of a complication with the medication. She 
also reports her mother was misdiagnosed multiple times in the 
past. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Mother with ___ CA, father with colon CA.
 
Physical Exam:
Admission Exam:
===============
GENERAL: Conversational, friendly female. NAD. 
HEENT: NCAT. Mild drooping of R. upper eyelid. R. pupil larger 
than L. pupil. R. pupil sluggish, minimally reactive to light. 
MMM.  
NECK: Supple, trachea midline. No cervical lymphadenopathy 
appreciated.   
LUNGS: Decreased breath sounds in R. lung, decreased breath 
sounds in L. lower lung base, otherwise CTA.  
HEART: RRR, normal s1, s2. no mrg.
ABD: BS+. nd, nt.
EXT: No lower extremity edema.
SKIN: No appreciable skin lesions or excorications. 
NEURO: A&Ox4. CN II-XII intact. LUE ___ strength, R deltoid 
strength ___, R. biceps strength ___, R. triceps strength ___, 
R. finger abduction ___. LLE ___ strength, RLE ___ strength. 
Reflexes 2+, symmetric b/l. Light touch and are intact in 
fingers and toes. 

Discharge Exam:
===============
24 HR Data (last updated ___ @ 823)
    Temp: 98.7 (Tm 99.2), BP: 118/75 (110-118/68-75), HR: 79
(79-95), RR: 18 (___), O2 sat: 92% (92-94), O2 delivery: Ra   
GENERAL: Conversational, friendly female. NAD. Wearing C-collar
in bed.
HEENT: NCAT. Mild drooping of R. upper eyelid. R. pupil smaller
than L. pupil. R. pupil sluggish, minimally reactive to light.
MMM.  
LUNGS: Decreased breath sounds in R. lung, decreased breath
sounds in L. lower lung base, otherwise CTA.  
HEART: RRR, normal s1, s2. no mrg.
ABD: BS+. nd, nt. No rebound tenderness or guarding.
EXT: No lower extremity edema.
SKIN: No appreciable skin lesions or excorications. 
NEURO: A&Ox4. CN II-XII intact. LUE ___ strength, R deltoid
strength 4+/5, R. biceps strength ___, R. triceps strength ___,
R. finger abduction 4+/5. LLE ___ strength, RLE ___ strength.
Reflexes 2+, symmetric b/l. Light touch and are intact in 
fingers
and toes. 
ACCESS: PIV 
 
Pertinent Results:
Admission Labs:
==============

___ 07:30AM BLOOD WBC-8.0 RBC-4.29 Hgb-12.7 Hct-39.1 MCV-91 
MCH-29.6 MCHC-32.5 RDW-13.6 RDWSD-45.8 Plt ___
___ 07:30AM BLOOD Neuts-85.4* Lymphs-11.1* Monos-2.7* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-6.57* AbsLymp-0.85* 
AbsMono-0.21 AbsEos-0.01* AbsBaso-0.02
___ 07:30AM BLOOD Glucose-105* UreaN-17 Creat-0.6 Na-138 
K-5.1 Cl-100 HCO3-24 AnGap-14
___ 07:30AM BLOOD ALT-14 AST-16 AlkPhos-62 TotBili-0.5
___ 07:30AM BLOOD Calcium-9.5 Phos-4.2 Mg-2.3

Reports:
=======
___ PET:
IMPRESSION:  Large, infiltrative, right apical mass with 
destruction of the adjacent upper thoracic spine vertebral 
bodies, posterior elements, and posterior right first through 
third ribs.  Probably separate FDG avid osseous lesions in T3 
and T4 abut and perhaps slightly efface the spinal canal. A 
right upper lobe pulmonary nodule is FDG avid and concerning for 
metastasis or a second primary.  A left upper lobe pulmonary 
nodule is not FDG avid.  Severe centrilobular emphysema. 

Discharge Labs:
===============
___ 07:20AM BLOOD WBC-7.1 RBC-3.86* Hgb-11.7 Hct-35.1 
MCV-91 MCH-30.3 MCHC-33.3 RDW-13.8 RDWSD-46.1 Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-119* UreaN-23* Creat-0.7 Na-136 
K-4.9 Cl-100 HCO3-27 AnGap-9*
___ 07:20AM BLOOD TotBili-0.5
___ 07:20AM BLOOD Calcium-9.5 Phos-4.2 Mg-2.3 UricAcd-4.3
 
Brief Hospital Course:
Hospital Course:
Ms. ___ is a ___ y.o. female with a recent diagnosis of 
recently diagnosed (dx ___ Stage IIIB/IV R. pancoast 
adenocarcinoma(no LN biopsy to determine whether stage IV but 
has enlarged LN on imaging with contralateral parenchymal lung 
nodules on CT scan), c/b invasion of brachial plexus and C7-T2 + 
T4 lesion who was admitted on ___ from clinic on ___ for 
urgent chemotherapy and radiation iso concern for permanent 
neurologic damage. She began C1D1 cispltain/pemetrexed + 
radiation on ___.

#Right pancoast adenocarcinoma
#Nerve root compression 
Ms. ___ was diagnosed with R. pancoast adenocarcinoma during 
her last hospital admission (___). Prior to this, she had 
not seen a provider ___ ___ years. Per Dr. ___ 
oncologist), her clinical stage is IIIB (T4N2M0) at minimum, but 
given concerning contralateral parenchymal lung nodules on CT 
scan, it is likely that she is stage 4. PET scan will determine 
the need for bronchoscopy and biopsy of mediastinal nodes. She 
began C1D1 of cisplatin + permextred on ___ and began the 
first of her radiation treatments (total 14 treatments) on 
___. She will follow up with Dr. ___ Dr. ___ in 
clinic for a total of ___ cycles of cisplain/pemetrexed and 
continue her radiation treatments (total 14 radiation tx) as 
planned. Prior to discharge, she reported improvement in her 
bilateral arm pain and improvement in R. hand numbness. Notably, 
she was able to use her R. hand to brush her teeth, which she 
was unable to do prior to admission. She was discharged on 
dexamethasone 4mg qAM, Bactrim, PPI, folic acid 1mg qd given 
pemetrexed use.

#RUE weakness
#Brachial plexopathy
#Bilateral arm pain:
As above, she will continue chemotherapy + radiation treatment. 
Her neurologic symptoms improved prior to discharge and she was 
discharged on dexamethasone 4mg qAM. She was continued on 
Tylenol and gabapentin for her pain.

# C7 vertebral compression fracture
# Destructive changes of T1 and T2 vertebral bodies, right sided 
facet joints at the C7-T1 and T1-2 levels
# Anterolisthesis of C7 on T1
She has known tumor invasion of C7-T2, and C7 vertebral 
compression fracture ___ tumor invasion. On her most recent
admission (___), spine surgery, hem/onc and radiation 
oncology made a decision to stabilize her compression fracture
with a brace (as opposed to posterior fusion spine stabilization 
surgery which would have required delaying chemo and radiation 
in order for her to recover/heal from surgery). Per Ortho, she 
will need to wear her C-collar at night and wear CTO brace at 
all other times. She is aware and amenable to this plan. 
Tentative plan to perform spine surgery 6 weeks after 
chemoradiation. 

# Biopsychosocial issues: 
Ms. ___ expressed concerns about her son, as he recently lost 
his brother (also her son) and father (ex-husband). She reports 
being less concerned about dying and more concerned about 
ensuring her son is set up with the business before she passes. 
They own an ___ together. Social Work and 
Palliative Care saw her while she was hospitalized, and she will 
have follow up with Palliative Care as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Gabapentin 800 mg PO QID 
3. Ibuprofen 600 mg PO Q8H 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. Nicotine Patch 14 mg TD DAILY 
6. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO QAM 
RX *dexamethasone 4 mg 1 tablet(s) by mouth every morning Disp 
#*17 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once daily Disp #*17 
Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*51 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN Duration: 3 Days 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
for breakthrough pain Disp #*12 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice daily as 
needed Disp #*34 Tablet Refills:*0 
6.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth Take one tablet once daily. Disp #*17 Tablet 
Refills:*0 
7.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
8.  Gabapentin 800 mg PO QID  
9.  Ibuprofen 600 mg PO Q8H  
10.  Lidocaine 5% Patch 1 PTCH TD QAM  
11.  Nicotine Patch 14 mg TD DAILY  
12.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
R. pancoast adenocarcinoma

Secondary Diagnosis:
====================
C7 vertebral compression fracture
RUE weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
-You were in the hospital because you were having worsening of 
your arm pain and R. hand numbness. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
-You were found to have a tumor in the top of your lung
-You started chemotherapy and radiation for this tumor.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments, especially your Oncology and Radiation 
appointments!
- The pain medicine can give you constipation. Please use the 
senna as needed to make sure you are having daily soft bowel 
movements. 
- The Bactrim is for preventing a type of pneumonia while you 
are on steroids. 
- The Omeprazole is for preventing stomach irritation while on 
steroids. 
- Continue to wear your brace when out of bed and your collar 
while in bed. 

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___